US08791107B2
2-(1H-benzo[d]imidazol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
The title compound was prepared in a manner similar to EXAMPLE 84 using 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x1, 50 mg, 0.208 mmol), 1H-benzo[d]imidazol-4-ylboronic acid (71.5 mg, 0.441 mmol), and PdCl2(dppf) (7.60 mg, 10.39 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.10-3.19 (m, 1H), 3.50-3.59 (m, 2H), 3.99 (d, J=3.28 Hz, 1H), 4.18 (dd, J=11.24, 3.66 Hz, 1H), 4.43 (dd, J=10.61, 3.79 Hz, 1H), 4.59-4.71 (m, 1H), 7.49-7.67 (m, 1H), 7.90 (d, J=8.08 Hz, 1H), 8.03 (s, 1H), 8.39 (d, J=7.83 Hz, 1H), 9.23 (br s, 1H), 11.03 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C16H14N6O2, 323.12. found 323.2.

reactant | 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.208 mmol, 50 mg | ClC1=NC=2N3C(C(NC2C=N1)=O)COCC3 | C9H9ClN4O2
reactant | 1H-benzo[d]imidazol-4-ylboronic acid | 0.441 mmol, 71.5 mg | N1C=NC2=C1C=CC=C2B(O)O | C7H7BN2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 10.39 μmol, 7.60 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1H-benzo[d]imidazol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | N1C=NC2=C1C=CC=C2C2=NC=1N3C(C(NC1C=N2)=O)COCC3 | C16H14N6O2
